US07737143B2
In an analogous fashion to Example 1, an approximately 1:1 mixture of 1-(6-chloropyrazin-2-yl)-1H-benzimidazole-5-carbonitrile and 1-(6-chloropyrazin-2-yl)-1H-benzimidazole-6-carbonitrile (100 mg, 0.39 mmol) was condensed with (1S)-1,2,3,4-tetrahydronaphthalen-1-amine (69 mg, 0.47 mmol). The product was obtained as a mixture of regioisomers which were separated by column chromatography using dichloromethane-methanol (95:5) as eluant. From the less polar fractions 1-{6[(1S)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrazin-2-yl}-1H-benzimidazole-6-carbonitrile was obtained as a yellow semi-solid (26 mg).

reactant | 1-(6-chloropyrazin-2-yl)-1H-benzimidazole-5-carbonitrile | ClC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)C#N | C12H6ClN5
reactant | 1-(6-chloropyrazin-2-yl)-1H-benzimidazole-6-carbonitrile | 0.39 mmol, 100 mg | ClC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)C#N | C12H6ClN5
reactant | (1S)-1,2,3,4-tetrahydronaphthalen-1-amine | 0.47 mmol, 69 mg | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | 1-{6[(1S)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrazin-2-yl}-1H-benzimidazole-6-carbonitrile | [C@@H]1(CCCC2=CC=CC=C12)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)C#N | C22H18N6
